US07528262B2
5-Methoxy-2-methyl-1-[4-(4-pyrrolidin-1-ylbut-1-ynyl)phenyl]-1H-indole
1-(4-Bromophenyl)-5-methoxy-2-methyl-1H-indole and 1-(4-Iodophenyl)-5-methoxy-2-methyl-1H-indole. 5-Methoxy-2-methylindole (500 mg, 3.1 mmol) and 1-bromo-4-iodobenzene (877 mg, 3.1 mmol) were dissolved in toluene (6 mL). To the resulting solution were added copper(I) iodide (12 mg, 0.062 mmol), potassium phosphate tribasic (1.32 g, 6.2 mmol), and N,N′-dimethylethylenediamine (6.6 μL, 0.062 mmol). The mixture was heated at 80° C. overnight, allowed to cool to room temperature and filtered through a pad of silica. The resulting solution was concentrated to give a mixture of both the bromo and the iodo halophenyl indoles, which were used without further purification (assumed quantitative).

reactant | 1-(4-Bromophenyl)-5-methoxy-2-methyl-1H-indole | BrC1=CC=C(C=C1)N1C(=CC2=CC(=CC=C12)OC)C | C16H14BrNO
reactant | 1-(4-Iodophenyl)-5-methoxy-2-methyl-1H-indole | IC1=CC=C(C=C1)N1C(=CC2=CC(=CC=C12)OC)C | C16H14INO
reactant | 5-Methoxy-2-methylindole | 3.1 mmol, 500 mg | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | 1-bromo-4-iodobenzene | 3.1 mmol, 877 mg | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | potassium phosphate tribasic | 6.2 mmol, 1.32 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 0.062 mmol, 6.6 μL | CNCCNC | C4H12N2
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.062 mmol, 12 mg | [Cu]I
product | 5-Methoxy-2-methyl-1-[4-(4-pyrrolidin-1-ylbut-1-ynyl)phenyl]-1H-indole | COC=1C=C2C=C(N(C2=CC1)C1=CC=C(C=C1)C#CCCN1CCCC1)C | C24H26N2O
